US06002008
N-{4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl}-2-morpholin-4-ylmethyl-2-propenamide
Partially dissolved 1.26 g (7.37 mmol) 2-morpholin-4-ylmethyl-2-propenoic acid in 40 ml THF and chilled to 0° C. under N2. Added 810 μl (7.37 mmol) N-methylmorpholine and 950 μl (7.37 mmol) isobutyl chloroformate. After stirring 10 minutes, added a solution of 1.00 g (2.95 mmol) 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile in 2.5 ml DMF and 20 ml THF. Stripped solvent at 2 hours, slurried residue with water, collected solids, and dried in vacuo. Recrystallized from ethyl acetate and dried in vacuo, giving 334 mg of yellow-orange solid: mass spectrum (electrospray m/e): M+H=492, 494.3.

reactant | 2-morpholin-4-ylmethyl-2-propenoic acid | 7.37 mmol, 1.26 g | N1(CCOCC1)CC(C(=O)O)=C | C8H13NO3
reactant | N-methylmorpholine | 7.37 mmol, 810 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 7.37 mmol, 950 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | 2.95 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-{4-[(3-Bromophenyl)amino]-3-cyano-6-quinolinyl}-2-morpholin-4-ylmethyl-2-propenamide | 334 mg | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C(=C)CN1CCOCC1)=O)C#N | C24H22BrN5O2
